US06964966B2
5-Amino-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-7-(4-methylamino-3,3-dimethyl-1-piperidinyl)-4-oxo-quinoline-3-carboxylic acid
A suspension of 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-quinoline-3-carboxylic acid (0.17 g, 0.55 mmol), 3,3-dimethyl-4-methylamino piperidine (0.15 g, 1.06 mmol) and triethylamine (1 g, 10 mmol) in a mixture of dimethylsulfoxide (10 ml) and acetonitrile (10 ml) was heated at 70° C. for 18 hr. Acetonitrile was distilled off, filtered to remove suspended impurities, diluted with water (5 ml). The precipitate thus separated was filtered, washed with water, dried and purified by silicagel column chromatography. Elute from a mixture of ethyl acetate and methanol furnished the required product. Yield 0.12 g (50%), m.p.250° C. (decomp.), C22H29FN4O4, m/z 433 (M+1), PMR (DMSO-d6): 0.9 (m, 2H), 1.0 (m, 2H), 1.0 (s, 3H), 1.1 (s, 3H), 1.8-2.0 (m, 2H), 2.6 (s, 3H), 2.8-3.2 (m, 4H), 3.5 (s, 3H), 3.6 (s, 3H), 3.65 (m, 1H), 4.0 (m, 1H), 7.2 (bs, 2H, D2O exchangeable), 8.6 (s, 1H).

reactant | 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-quinoline-3-carboxylic acid | 0.55 mmol, 0.17 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)OC)C1CC1)C(=O)O)=O | C14H12F2N2O4
reactant | 3,3-dimethyl-4-methylamino piperidine | 1.06 mmol, 0.15 g | CC1(CNCCC1NC)C | C8H18N2
reactant | triethylamine | 10 mmol, 1 g | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-Amino-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-7-(4-methylamino-3,3-dimethyl-1-piperidinyl)-4-oxo-quinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(C(CC1)NC)(C)C)OC)C1CC1)C(=O)O)=O | C22H29FN4O4
